US08314250B2
Step 5: 2-{3-[((S)-1-Dimethylaminomethyl-2-phenyl-ethylamino)-methyl]-benzyl}-1,1-dioxo-1λ6-isothiazolidine-3-carboxylic acid
To a solution of crude 2-{3-[((S)-1-dimethylaminomethyl-2-phenyl-ethylamino)-methyl]-benzyl}-1,1-dioxo-1λ6-isothiazolidine-3-carboxylic acid ethyl ester (360 mg, approx. 0.67 mmol) in tetrahydrofuran (4 mL) was added lithium hydroxide hydrate (57.4 mg, 1.37 mmol) followed by water (1 mL). It was stirred at room temperature for 2 h. To the stirred solution was added ˜15 drops 1N hydrochloric acid to bring the pH to 4.5. The sample was concentrated to dryness and dried over phosphorus pentoxide overnight. The crude 2-{3-[((S)-1-dimethylaminomethyl-2-phenyl-ethylamino)-methyl]-benzyl}-1,1-dioxo-1λ6-isothiazolidine-3-carboxylic acid (350 mg, ca 80% pure) (LiCl present) was used in the next step.

reactant | 2-{3-[((S)-1-dimethylaminomethyl-2-phenyl-ethylamino)-methyl]-benzyl}-1,1-dioxo-1λ6-isothiazolidine-3-carboxylic acid ethyl ester | approx. 0.67 mmol, 360 mg | C(C)OC(=O)C1N(S(CC1)(=O)=O)CC1=CC(=CC=C1)CN[C@@H](CC1=CC=CC=C1)CN(C)C | C25H35N3O4S
reactant | lithium hydroxide hydrate | 1.37 mmol, 57.4 mg | O.[OH-].[Li+]
reactant | water | 1 mL | O | H2O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
catalyst | hydrochloric acid | 1N, ˜15 drops | Cl | ClH
product | 2-{3-[((S)-1-Dimethylaminomethyl-2-phenyl-ethylamino)-methyl]-benzyl}-1,1-dioxo-1λ6-isothiazolidine-3-carboxylic acid | CN(C)C[C@H](CC1=CC=CC=C1)NCC=1C=C(CN2S(CCC2C(=O)O)(=O)=O)C=CC1 | C23H31N3O4S
